US07576215B2
3-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOIC ACID
The title compound was prepared from methyl 3-{[({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amino) carbonyl]amino}benzoate and LiOH according to the procedure of Example 1. MS (ES) m/z 553.9.

reactant | methyl 3-{[({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amino) carbonyl]amino}benzoate | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC=1C=C(C(=O)OC)C=CC1)C(F)(F)F | C32H22F3N3O4
reactant | LiOH | [Li+].[OH-]
product | 3-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC=1C=C(C(=O)O)C=CC1)C(F)(F)F | C31H20F3N3O4
